US07125896B2
b) 1-[1-(4-Bromophenyl)ethyl]piperidine
4-Bromoacetophenone (1.95 g), piperidine (0.97 ml) and titanium(IV) isopropoxide (3.64 ml) were stirred under argon at room temperature for 1 h. Ethanol (10 ml) was added, followed by sodium cyanoborohydride (0.41 g) and mixture stirred for 18 h. Water (2 ml) was then added and the mixture stirred for 20 minutes. The resulting inorganic precipitate was filtered off, washed with ethanol (20 ml) and the combined organic phase was concentrated in vacuo, redissolved in toluene and purified by Bondelute® chromotography, eluting with 0–20% ethyl acetate/iso-hexane to give the product as a pale yellow oil (1.07 g).

reactant | 4-Bromoacetophenone | 1.95 g | CC(=O)C1=CC=C(C=C1)Br | C8H7BrO
reactant | piperidine | 0.97 ml | N1CCCCC1 | C5H11N
reactant | Ethanol | 10 ml | C(C)O | C2H6O
reactant | sodium cyanoborohydride | 0.41 g | C(#N)[BH3-].[Na+]
catalyst | titanium(IV) isopropoxide | 3.64 ml | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
solvent | Water | 2 ml | O | H2O
product | 1-[1-(4-Bromophenyl)ethyl]piperidine | 1.07 g | BrC1=CC=C(C=C1)C(C)N1CCCCC1 | C13H18BrN
